data/oMe_Silver.jsonl
{"reaction_id": "NG-004_1-C(F)(F)F_2-c1ccccc1_3-c1ccc(Br)cc1","name": "Base-catalyzed Aldol condensation","level": "medium","reactants_smiles": ["C(C(F)(F)F)C=O","C(c1ccccc1)(c1ccc(Br)cc1)=O"],"products_smiles": ["C(c1ccccc1)(c1ccc(Br)cc1)=C(C=O)C(F)(F)F"],"conditions": "Acid (H3O+)","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(F)(F)F)=C([O-])","rationale": "Acid-base conditions favor deprotonation at the α-position due to resonance stabilization of the resulting enolate by the adjacent carbonyl."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c1ccccc1)(c1ccc(Br)cc1)([O-])C(C=O)C(F)(F)F","rationale": "The nucleophilic enolate carbon attacks the electrophilic carbonyl carbon of c1ccccc1, whose partial positive charge is enhanced by the electron-withdrawing carbonyl oxygen."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccccc1)(c1ccc(Br)cc1)(O)C(C=O)C(F)(F)F","rationale": "Protonation of the alkoxide intermediate generates a stable β-hydroxy carbonyl, favored under acidic conditions for subsequent elimination."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccccc1)(c1ccc(Br)cc1)(O)C=C([O-])C(F)(F)F","rationale": "Deprotonation at the α-position forms an enolate again, enabling conjugation with the β-hydroxy group for elimination."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(c1ccccc1)(c1ccc(Br)cc1)=C(C=O)C(F)(F)F","rationale": "Elimination of water is driven by formation of the conjugated α,β-unsaturated carbonyl, which is thermodynamically stabilized by extended π-delocalization."}],"description": "Under acidic conditions, the reaction proceeds via enolate formation, nucleophilic attack on the carbonyl of the second reactant, and subsequent dehydration to yield the α,β-unsaturated carbonyl product. Acid catalysis facilitates proton transfers and stabilizes intermediates, driving the condensation forward."}
{"reaction_id": "NR-240_1-C_2-C#N_3-CC_4-c1ccccc1_5-C(=O)C","level": "medium","name": "Stevens Rearrangement","reactants_smiles": ["CC(=O)C(C#N)[N+](CC)(c1ccccc1)C(=O)C","[Li]N(C(C)C)C(C)C"],"products_smiles": ["CC(=O)C(C#N)(C(=O)C)N(CC)(c1ccccc1)"],"conditions": "","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "CC([O-])=C(C#N)[N+](CC)(c1ccccc1)C(=O)C","step_weight": 0,"rationale": "LDA selectively deprotonates the α-carbon due to enhanced acidity from carbonyl resonance and the inductive electron-withdrawing effect of the positively charged nitrogen."},{"step": 2,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "CC(=O)C(C#N)(C(=O)C)N(CC)(c1ccccc1)","step_weight": 0,"rationale": "The nitrogen ylide rearranges via a [1,2]-shift because migration relieves charge separation and forms a stable tertiary amine, favored by the ability of the migrating group to stabilize developing negative charge."}],"description": "A strong, non-nucleophilic base deprotonates the acidic α-carbon between the carbonyl and quaternary ammonium, forming a nitrogen ylide stabilized by resonance with the carbonyl. This ylide undergoes a [1,2]-alkyl shift, yielding a more stable tertiary amine product."}
